************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: SDFFQX4
* View Name:     schematic
* Netlisted on:  Jun  4 07:49:31 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    SDFFQX4
* View Name:    schematic
************************************************************************

.SUBCKT SDFFQX4 CK D Q SE SI VDD VSS
*.PININFO CK:I D:I SE:I SI:I VDD:I VSS:I Q:O
Mmn13 n3 SI VSS VSS g45n1svt m=1 l=45n w=145n
Mmn14 Db SE n3 VSS g45n1svt m=1 l=45n w=145n
Mmn12 Db SEb n1 VSS g45n1svt m=1 l=45n w=145n
Mmn11 n1 D VSS VSS g45n1svt m=1 l=45n w=145n
Mmn55 Q qbint VSS VSS g45n1svt m=1 l=45n w=1.04u
Mmn50 n7 qbint VSS VSS g45n1svt m=1 l=45n w=145n
Mmn10 SEb SE VSS VSS g45n1svt m=1 l=45n w=145n
Mmn40 mout CKbb n30 VSS g45n1svt m=1 l=45n w=145n
Mmn35 n20 CKbb n5 VSS g45n1svt m=1 l=45n w=145n
Mmn36 n5 mout VSS VSS g45n1svt m=1 l=45n w=145n
Mmn20 CKb CK VSS VSS g45n1svt m=1 l=45n w=145n
Mmn51 n30 CKb n7 VSS g45n1svt m=1 l=45n w=145n
Mmn21 CKbb CKb VSS VSS g45n1svt m=1 l=45n w=145n
Mmn45 qbint n30 VSS VSS g45n1svt m=1 l=45n w=410n
Mmn25 Db CKb n20 VSS g45n1svt m=1 l=45n w=145n
Mmn30 mout n20 VSS VSS g45n1svt m=1 l=45n w=145n
Mmp14 Db SEb n4 VDD g45p1svt m=1 l=45n w=215n
Mmp13 n4 SI VDD VDD g45p1svt m=1 l=45n w=215n
Mmp12 Db SE n2 VDD g45p1svt m=1 l=45n w=215n
Mmp11 n2 D VDD VDD g45p1svt m=1 l=45n w=215n
Mmp51 n30 CKbb n8 VDD g45p1svt m=1 l=45n w=215n
Mmp50 n8 qbint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp55 Q qbint VDD VDD g45p1svt m=1 l=45n w=1.56u
Mmp35 n6 mout VDD VDD g45p1svt m=1 l=45n w=215n
Mmp25 n20 CKbb Db VDD g45p1svt m=1 l=45n w=215n
Mmp21 CKbb CKb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp30 mout n20 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp36 n20 CKb n6 VDD g45p1svt m=1 l=45n w=215n
Mmp40 n30 CKb mout VDD g45p1svt m=1 l=45n w=215n
Mmp10 SEb SE VDD VDD g45p1svt m=1 l=45n w=215n
Mmp45 qbint n30 VDD VDD g45p1svt m=1 l=45n w=620n
Mmp20 CKb CK VDD VDD g45p1svt m=1 l=45n w=215n
.ENDS

