************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: TBUFX3
* View Name:     schematic
* Netlisted on:  Jun  4 07:51:25 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VDD:P
+        VSS:G
+        ExtVDD:P
+        ExtVSS:G

*.PIN VDD
*+    VSS
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    TBUFX3
* View Name:    schematic
************************************************************************

.SUBCKT TBUFX3 A OE VDD VSS Y
*.PININFO A:I OE:I VDD:I VSS:I Y:O
Mmn5 Y non VSS VSS g45n1svt m=1 l=45n w=780n
Mmn3 net144 A VSS VSS g45n1svt m=1 l=45n w=260n
Mmn0 OEb OE VSS VSS g45n1svt m=1 l=45n w=145n
Mmn4 pon OE net144 VSS g45n1svt m=1 l=45n w=260n
Mmn2 non OEb VSS VSS g45n1svt m=1 l=45n w=260n
Mmn1 non A VSS VSS g45n1svt m=1 l=45n w=260n
Mmp2 non OEb net127 VDD g45p1svt m=1 l=45n w=390n
Mmp1 net127 A VDD VDD g45p1svt m=1 l=45n w=390n
Mmp5 Y pon VDD VDD g45p1svt m=1 l=45n w=1.17u
Mmp3 pon A VDD VDD g45p1svt m=1 l=45n w=390n
Mmp4 pon OE VDD VDD g45p1svt m=1 l=45n w=390n
Mmp0 OEb OE VDD VDD g45p1svt m=1 l=45n w=215n
.ENDS

